US05187189
N,N-Diethyl-N-methyl-3-[S-(4-nitrophenyl)sulfonimidoyl]propanaminium tetrafluoroborate
Trimethyloxonium fluoroborate (3.81 g, 25.6 mmol) was added to a solution of N,N-diethyl-3-[S-(4-nitrophenyl)sulfonimidoyl]-1-propanamine (7.7 g, 25.6 mmol) in methylene chloride (50 mL) maintained at -20° C. After 15 min the reaction mixture was warmed to 0° C. for 30 min and then to ambient temperature for 1 h. Water (100 mL) was added to the reaction mixture, and the reaction mixture was made basic with 10% sodium hydroxide. The biphasic mixture containing insoluble material was filtered. The solid that was collected by filtration was recrystallized from a methanol/ethanol mixture. The white solid that formed was collected by filtration to give 0.51 g(4.9%), mp 125°-126.5° C.

reactant | Trimethyloxonium fluoroborate | 25.6 mmol, 3.81 g | F[B-](F)(F)F.C[O+](C)C
reactant | N,N-diethyl-3-[S-(4-nitrophenyl)sulfonimidoyl]-1-propanamine | 25.6 mmol, 7.7 g | C(C)N(CCCS(=O)(=N)C1=CC=C(C=C1)[N+](=O)[O-])CC | C13H21N3O3S
reactant | Water | 100 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N,N-Diethyl-N-methyl-3-[S-(4-nitrophenyl)sulfonimidoyl]propanaminium tetrafluoroborate | F[B-](F)(F)F.C(C)[N+](CCCS(=O)(=N)C1=CC=C(C=C1)[N+](=O)[O-])(C)CC | InChI=1S/C14H24N3O3S.BF4/c1-4-17(3,5-2)11-6-12-21(15,20)14-9-7-13(8-10-14)16(18)19;2-1(3,4)5/h7-10,15H,4-6,11-12H2,1-3H3;/q+1;-1
